US08017611B2
PPA (10 ml) at 50° C. was added to a stirred mixture of 2-aminonicotinic acid (2 g) and 2-amino-3-fluoro-phenol (1.841 g). The resulting suspension was stirred at 200° C. for 16 hours. The mixture was cooled and quenched with ice and water (100 ml) and the pH was adjusted to 12 with an aqueous solution of sodium hydroxide (6N then 2N). The resultant solid was filtered and washed with water. The solid was dried under reduce pressure with phosphorus pentoxide. The solid was adsorbed on silica gel with methylene chloride (100 ml) and methanol (10 ml) and purified by flash chromatography on silica gel eluting with 20 to 30% ethyl acetate in dichloromethane. The solvent was evaporated to dryness to afford 3-(4-fluoro-1,3-benzoxazol-2-yl)pyridin-2-amine (2.060 g) as a solid. NMR Spectrum: (CDCl3): 6.78 (dd, 1H), 6.97 (bs, 2H), 7.09 (dd, 1H), 7.31 (ddd, 1H), 7.38 (d, 1H), 8.30 (d, 1H), 8.33 (bs, 1H); Mass spectrum: M+H+ 230

reactant | 2-aminonicotinic acid | 2 g | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | 2-amino-3-fluoro-phenol | 1.841 g | NC1=C(C=CC=C1F)O | C6H6FNO
product | 3-(4-fluoro-1,3-benzoxazol-2-yl)pyridin-2-amine | 2.060 g | FC1=CC=CC2=C1N=C(O2)C=2C(=NC=CC2)N | C12H8FN3O
